US04973576
A solution of 4.9 g of tetraethyl [(5-ethyl-3-isoxazolyl)amino]methylene-bis(phosphonate) in 46 ml of concentrated hydrochloric acid was heated under reflux for 3 hours. After the reaction mixture was concentrated, the solid obtained was washed with acetone to give 2.8 g of [(5-ethyl-3-isoxazolyl)amino]methylene-bis(phosphonic acid) as a solid.

reactant | tetraethyl [(5-ethyl-3-isoxazolyl)amino]methylene-bis(phosphonate) | 4.9 g | C(C)C1=CC(=NO1)NC(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C14H28N2O7P2
solvent | hydrochloric acid | 46 ml | Cl | ClH
product | [(5-ethyl-3-isoxazolyl)amino]methylene-bis(phosphonic acid) | 2.8 g | C(C)C1=CC(=NO1)NC(P(O)(O)=O)P(O)(O)=O | C6H12N2O7P2
